US05212187
N-[2-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]ethyl]-N'-[2-[[(5-methylimidazol-4-yl)methyl]thio]ethyl]urea
Preparation is effected analogously to Example 63, using 0.8 g (2.6 mmol) of N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,2-ethanediamine, an equimolar amount of 1,1'-carbonyldiimidazole and 0.5 g (2.8 mmol) of 2-[[(5-methylimidazol-4-yl)methyl]thio]ethaneamine as starting materials. Working up by chromatography (eluant: ethyl acetate/methanol 9+1) analogously to Example 63 yields the purified title compound in the form of a crystalline solid; m.p.(ether): 114° C.; MS (+FAB method): m/z (rel. int.[%])=501 ([M+H]+, 15), 95 (63), 230 (100); IR (KBr): 1640 cm-1 (C=O).

reactant | N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,2-ethanediamine | 2.6 mmol, 0.8 g | ClC1=CC=C(C=C1)C(CCN(CCN)C)C1=NC=CC=C1 | C17H22ClN3
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-[[(5-methylimidazol-4-yl)methyl]thio]ethaneamine | 2.8 mmol, 0.5 g | CC1=C(N=CN1)CSCCN | C7H13N3S
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | N-[2-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]ethyl]-N'-[2-[[(5-methylimidazol-4-yl)methyl]thio]ethyl]urea | ClC1=CC=C(C=C1)C(CCN(C)CCNC(=O)NCCSCC=1N=CNC1C)C1=NC=CC=C1 | C25H33ClN6OS
